US05455239
BENZHYDRYL 7β-PHENYLACETAMIDO-3-TRIFLUORMETHANESULFONYLOXY-CEPH-3-EM-4-CARBOXYLATE
Benzhydryl 7β-phenylacetamido-3-hydroxy-ceph-3-em-4-carboxylate (1.0 g) was dissolved in methylene chloride (20 ml) and cooled to -78° C., under nitrogen. Triethylamine (0.420 ml, 1.1 eq) was added followed 5 minutes later by trifluoromethanesulfonic anhydride (0.410 ml, 1.1 eq). The reaction mixture was stirred at -78° C. for 20 min. and then allowed to come to room temperature rapidly. The methylene chloride was removed under reduced pressure and the solid residue was dissolved in ethyl acetate, washed with water, dried over sodium sulfate and evaporated to dryness to give the desired product as a white solid.

reactant | Benzhydryl 7β-phenylacetamido-3-hydroxy-ceph-3-em-4-carboxylate | 1.0 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S
reactant | Triethylamine | 0.420 ml, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.410 ml, 1.1 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | BENZHYDRYL 7β-PHENYLACETAMIDO-3-TRIFLUORMETHANESULFONYLOXY-CEPH-3-EM-4-CARBOXYLATE | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C(F)(F)F)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H23F3N2O7S2
